US04429138
A process of synthesizing 5-methoxy psoralene comprising methylating phloroglucinol with methanol to obtain the monomethyl ether of phloroglucinol; cyclizing the phloroglucinol monomethyl ether by first reacting with chloracetonitrile in the presence of gaseous HCl and zinc chloride then heating with postassium acetate to obtain 6-hydroxy-4-methoxy-3-coumaranone; reducing the 6-hydroxy-4-methoxy-3-courmaranone by direct reduction in the presence of a hydrazine hydrate catalyst to obtain 6-hydroxy-4-methoxy coumaran; cylizing the 6-hydroxy-4-methoxy-coumaran by reacting with acrylonitrile in the presence of HCl and zinc chloride to obtain 3,4,4',5'-tetra-hydro-5-methoxy psoralene and dehydrogenerating the 3,4,4',5' tetrahydro-5-methoxy psoralen to obtain 5-methoxy psoralene.

reactant | phloroglucinol monomethyl ether | COC1=CC(O)=CC(O)=C1 | C7H8O3
reactant | chloracetonitrile | ClCC#N | C2H2ClN
reactant | HCl | Cl | ClH
reactant | acetate | C(C)(=O)[O-]
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 6-hydroxy-4-methoxy-3-coumaranone | OC1=CC(=C2C(COC2=C1)=O)OC | C9H8O4
